US06660744B1
Procedure for Suzuki coupling: A mixture of N-(6-chloro-1,3-benzothiazol-2-yl)-N-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]amine (0.116 g, 0.30 mmol), cis-3-iodo-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine (0.106 g, 0.24 mmol) and tetrakis(triphenylphosphine)palladium (0) (0.014 g, 0.012 mmol) in ethylene glycol dimethyl ether (3.0 mL), sodium carbonate (0.064 g, 0.60 mmol), and water (1.5 mL) in a sealed Schlenk flask were heated at 90° C. for 24 h. The mixture was cooled, diluted with water (10 mL) and extracted with methanol/dichloromethane (1:19, 3×20 mL). The combined organic fractions were dried (magnesium sulfate), filtered, concentrated and purified by preparative HPLC (25 to 100% acetonitrile in 0.1 M aqueous ammonium acetate over 20 min at 21 mL/min using an 8μ Hypersil HS C18, 250×21 mm column, Rt 7.8-10.0 min) to afford cis-N2-(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}phenyl)-6-chloro-1,3-benzothiazol-2-amine as a yellow powder (0.036 g, 0.062 mmol); RP-HPLC (25 to 100% acetonitrile in 0.1 M aqueous ammonium acetate over 10 min at 1 mL/min using a 5μ Hypersil HS C18, 250×4.6 mm column) Rt 8.42 min; MS (MH)+ 574.

reactant | N-(6-chloro-1,3-benzothiazol-2-yl)-N-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]amine | 0.30 mmol, 0.116 g | ClC1=CC2=C(N=C(S2)NC2=CC=C(C=C2)B2OC(C(O2)(C)C)(C)C)C=C1 | C19H20BClN2O2S
reactant | cis-3-iodo-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.24 mmol, 0.106 g | IC1=NN(C2=NC=NC(=C21)N)[C@@H]2CC[C@@H](CC2)N2CCN(CC2)C | C16H24IN7
reactant | sodium carbonate | 0.60 mmol, 0.064 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethylene glycol dimethyl ether | 3.0 mL | COCCOC | C4H10O2
solvent | water | 10 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 0.012 mmol, 0.014 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 1.5 mL | O | H2O
product | cis-N2-(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}phenyl)-6-chloro-1,3-benzothiazol-2-amine | 0.062 mmol, 0.036 g | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)NC=2SC1=C(N2)C=CC(=C1)Cl)[C@@H]1CC[C@@H](CC1)N1CCN(CC1)C | C29H32ClN9S
